US08937071B2
A solution of N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2,6-difluorophenyl)acetamide (70 mg, 0.097 mmol) and Pd/C (10.31 mg, 0.097 mmol) in MeOH (10 mL) was stirred under a H2 atmosphere for 16 h. After LCMS analysis showed the starting material had disappeared, the mixture was filtered. The filtrate was concentrated to give the crude product, which was purified by preparative HPLC to yield a white solid of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2,6-difluorophenyl)-N-(4-(2-hydroxyethoxy)-3-(trifluoromethyl)phenyl)acetamide (7 mg, 0.014 mmol, 14.0% yield): 1H NMR (400 MHz, CD3OD) δ 7.83 (d, J=2.4 Hz, 1H), 7.71 (d, J=6.8 Hz, 1H), 7.36 (d, J=2.0 Hz, 1H), 7.24 (dd, J=3.0, 5.4 Hz, 3H), 7.16 (d, J=9.0 Hz, 1H), 4.07-4.20 (m, 4H), 3.87 (t, J=5.0 Hz, 2H), 3.81 (s, 2H), 1.46 (t, J=7.06 Hz, 3H); ES-LCMS m/z 513.1 (M+H).

reactant | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2,6-difluorophenyl)acetamide | 0.097 mmol, 70 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1F)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C39H35F5N2O6
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.097 mmol, 10.31 mg | [Pd] | Pd
product | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2,6-difluorophenyl)-N-(4-(2-hydroxyethoxy)-3-(trifluoromethyl)phenyl)acetamide | 0.014 mmol, 7 mg, 14.0% yield | C(C)OC1=CC(=CNC1=O)C1=CC(=C(C(=C1)F)CC(=O)NC1=CC(=C(C=C1)OCCO)C(F)(F)F)F | C24H21F5N2O5
